US07888364B2
N-(4-chloro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-2-methyl-6-(trifluoromethyl)nicotinamide (˜1 mmol) was used in Procedure A with 4-ethyl-2-bromopyridine (1 mmol). Purified by silica gel chromatography (0-60% ethyl acetate/hexanes) to yield N-(4-chloro-3-(4-ethylpyridin-2-yl)phenyl)-2-methyl-6-(trifluoromethyl)nicotinamide as a tan solid: MS (Q1) 419 (M)+.

reactant | N-(4-chloro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-2-methyl-6-(trifluoromethyl)nicotinamide | ˜1 mmol | ClC1=C(C=C(C=C1)NC(C1=C(N=C(C=C1)C(F)(F)F)C)=O)B1OC(C(O1)(C)C)(C)C | C20H21BClF3N2O3
reactant | 4-ethyl-2-bromopyridine | 1 mmol | C(C)C1=CC(=NC=C1)Br | C7H8BrN
product | N-(4-chloro-3-(4-ethylpyridin-2-yl)phenyl)-2-methyl-6-(trifluoromethyl)nicotinamide | ClC1=C(C=C(C=C1)NC(C1=C(N=C(C=C1)C(F)(F)F)C)=O)C1=NC=CC(=C1)CC | C21H17ClF3N3O
